US08114987B2
0.61 kg (1.53 mol) of 1-t-butoxy-2-deoxy-3,4-dibenzoyl-L-ribose was dissolved in 6.02 liters of methanol for 30 minutes, and 0.041 kg of 25 w % sodium methoxide methanol solution was added thereto. The mixture solution was stirred at room temperature at room temperature. After completion of the reaction, 0.013 kg of ammonium chloride was added to the reaction solution, which was then stirred for 2 hours, and 0.038 kg of celite was added thereto. Next, the solution was stirred for 30 minutes, and then concentrated. To the concentrated residue, 2.531 liters of ethyl acetate was added at 35-45° C., and the solution was stirred at the same temperature for 2-3 hours. The stirred solution was filtered using 0.038 kg of celite, and was washed with 0.422 liters of ethyl acetate, and then completely concentrated, thus obtaining 0.29 kg (100% yield) of 1-t-butoxy-2-deoxy-L-ribose.

reactant | 1-t-butoxy-2-deoxy-3,4-dibenzoyl-L-ribose | 1.53 mol, 0.61 kg | C(C)(C)(C)OC(=O)C[C@@](O)([C@@](O)(CO)C(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O | C23H26O7
reactant | sodium methoxide methanol | CO.C[O-].[Na+]
reactant | ammonium chloride | 0.013 kg | [Cl-].[NH4+]
solvent | methanol | 6.02 liters | CO | CH4O
product | 1-t-butoxy-2-deoxy-L-ribose | 0.29 kg, 100% yield | C(C)(C)(C)OC(=O)C[C@@H](O)[C@@H](O)CO | C9H18O5
